US07238716B2
A mixture of 3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzaldehyde (0.80 g), diethyl malonate (0.37 g), benzoic acid (0.07 g), piperidine (0.05 g) and toluene (40 mL) was heated under reflux for 4 hrs. with azeotropic dehydration. The reaction mixture was concentrated, water was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate, dilute hydrochloric acid and water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give an oil from a fraction eluted with acetone-hexane (1:5, v/v). To a mixture of the obtained oil, tetrahydrofuran (20 mL) and ethanol (20 mL) was added sodium borohydride (0.02 g) at 0° C. and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was poured into water, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give diethyl 2-[3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzyl]malonate as an oil (0.71 g, yield 66%) from a fraction eluted with ethyl acetate-hexane (1:4, v/v).

reactant | 3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzaldehyde | 0.80 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CSC=2C=C(C=O)C=CC2)C=CC1 | C25H21NO3S
reactant | diethyl malonate | 0.37 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | benzoic acid | 0.07 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | piperidine | 0.05 g | N1CCCCC1 | C5H11N
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | diethyl 2-[3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzyl]malonate | 0.71 g, yield 66% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CSC=2C=C(CC(C(=O)OCC)C(=O)OCC)C=CC2)C=CC1 | C32H33NO6S
